US07597980B2
Manufacturing of 2,4-dichloro-6-(4-vinylphenyl)-1,3,5-triazine (compound 7): FIG. 7
A solution formed by dissolving 4-bromostyrene (18.3 g, 0.1 mol) and magnesium (2.64 g, 0.11 mol) into THF (200 mL) was stirred at 30° C. for two hours, and then, refluxed for two hours. This solution was added to a solution of cyanuric chloride (21.58 g, 0.120 mol) into THF (200 mL) at −20° C., and the mixture was stirred at −20° C. for five hours. The solvent was distilled off under a reduced pressure, the remaining solid was dissolved into dichloromethane and washed with water twice. The organic layer was dried over anhydride MgSO4, and the solvent was distilled off.

reactant | 4-bromostyrene | 0.1 mol, 18.3 g | BrC1=CC=C(C=C)C=C1 | C8H7Br
reactant | magnesium | 0.11 mol, 2.64 g | [Mg] | Mg
reactant | cyanuric chloride | 0.120 mol, 21.58 g | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 2,4-dichloro-6-(4-vinylphenyl)-1,3,5-triazine | ClC1=NC(=NC(=N1)Cl)C1=CC=C(C=C1)C=C | C11H7Cl2N3
